US04997947
Preparation of 6-methoxy-5-methyl-2-(5-isopropyl-5-methyl-4-oxoimidazolin-2-yl)-pyridine-3-carboxylic acid
5 g of potassium tert.-butoxide are added in portions at a temperature of 80° C. to a solution of 5.7 g of 6-methoxymethyl-5-methylpyridine-2,3-dicarboxylic acid diethyl ester and 2.6 g of 2-amino-2,3-dimethylbutyramide in 200 ml of dry toluene while stirring. Once the addition of the potassium tert.-butoxide is complete, the resulting red solution is stirred for 2 hours at 80° C., the potassium salt of 2-(5-isopropyl-5-methyl-4-oxoimidazolin-2-yl)-5-ethylpyridine-3-carboxylic acid being deposited in the form of a thick crystalline slurry. The mixture is cooled to room temperature and filtered with suction, and the crystals are dried and then dissolved in 50 ml of saturated sodium chloride solution. The solution is adjusted to pH 4 with concentrated hydrochloric acid and then extracted three times with 100 ml of ethyl acetate each time. The organic phase is dried over magnesium sulphate, filtered off with suction and concentrated by evaporation. The residue crystallises from ether/hexane 1:2 yielding 2.8 g of the above acid, which has a melting point of 151°-153° C.

reactant | potassium tert.-butoxide | 5 g | CC(C)([O-])C.[K+]
reactant | 6-methoxymethyl-5-methylpyridine-2,3-dicarboxylic acid diethyl ester | 5.7 g | C(C)OC(=O)C1=NC(=C(C=C1C(=O)OCC)C)COC | C14H19NO5
reactant | 2-amino-2,3-dimethylbutyramide | 2.6 g | NC(C(=O)N)(C(C)C)C | C6H14N2O
reactant | potassium | [K] | K
reactant | 2-(5-isopropyl-5-methyl-4-oxoimidazolin-2-yl)-5-ethylpyridine-3-carboxylic acid | C(C)(C)C1(C(N=C(N1)C1=NC=C(C=C1C(=O)O)CC)=O)C | C15H19N3O3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 6-methoxy-5-methyl-2-(5-isopropyl-5-methyl-4-oxoimidazolin-2-yl)-pyridine-3-carboxylic acid | COC1=C(C=C(C(=N1)C=1NC(C(N1)=O)(C)C(C)C)C(=O)O)C | C15H19N3O4
